US06147061
2-[Methoxy(4-nitrobenzyl) phosphinoylmethyl]-4-methylpentanoic acid benzyl ester (prepared from 4-nitrobenzyl bromide and (2-benzyloxycarbonyl4-methylpentyl)phosphinic acid by the procedure described in Example 1/Step B) (900 mg, 2.08 mmole) in a mixture of ethanol (25 ml) and water (6 ml) was treated with concentrated hydrochloric acid (3 drops) and iron powder (1.14 grams, 20 mmole) at reflux. After 2 hours the cooled mixture was filtered through diatomaceous earth. The filtrate was concentrated and the residue chromatographed (ethyl acetate) to give 444 mg (53%) of 2-[(4-Aminobenzyl) methoxyphosphinoylmethyl]-4-methylpentanoic acid benzyl ester as a yellow oil.

reactant | 2-[Methoxy(4-nitrobenzyl) phosphinoylmethyl]-4-methylpentanoic acid benzyl ester | C(C1=CC=CC=C1)OC(C(CC(C)C)C(P(=O)CC1=CC=C(C=C1)[N+](=O)[O-])OC)=O | C22H28NO6P
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | (2-benzyloxycarbonyl4-methylpentyl)phosphinic acid | C(C1=CC=CC=C1)OC(=O)C(CP(O)=O)CC(C)C | C14H21O4P
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
catalyst | iron | 20 mmole, 1.14 grams | [Fe] | Fe
product | 2-[(4-Aminobenzyl) methoxyphosphinoylmethyl]-4-methylpentanoic acid benzyl ester | 444 mg, 53% | C(C1=CC=CC=C1)OC(C(CC(C)C)CP(=O)OCCC1=CC=C(C=C1)N)=O | C22H30NO4P
